US05491132
A solution of (2S,3S)-2-t-butoxycarbonylamino-1-cyclohexyl-3-hydroxy-5-methylhexane (120 mg) in trifluoroacetic acid (3 ml) was stirred at 0° C. for 30 minutes. After evaporation of the solvent, the residue was dissolved in ethyl acetate (10 ml). The solution was washed with saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulfate, and evaporated in vacuo to give (2S,3S)-2-amino-1-cyclohexyl-3-hydroxy-5-methylhexane (82 mg) as an oil. Rf: 0.30 (chloroform: methanol: acetic acid, 16:1:1, V/V)

reactant | (2S,3S)-2-t-butoxycarbonylamino-1-cyclohexyl-3-hydroxy-5-methylhexane | 120 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H](CC(C)C)O | C18H35NO3
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,3S)-2-amino-1-cyclohexyl-3-hydroxy-5-methylhexane | 82 mg | N[C@@H](CC1CCCCC1)[C@H](CC(C)C)O | C13H27NO
